US07858640B2
2-(4-methanesulfonylbenzyl)-3-oxobutyric Acid Ethyl Ester
A suspension of potassium tert-butoxide (4.5 g) in anhydrous tetrahydrofuran (70 mL) at 0° C. was treated with a mixture of tert-butanol (0.2 mL) and 3-oxobutyric acid ethyl ester (5.2 g). After stirring at 15° C. for 15 minutes a solution of 1-bromomethyl-4-methanesulfonylbenzene (10 g) in tetrahydrofuran (30 mL) was added and the resulting mixture heated at 70° C. for 17 hours. The mixture was diluted with saturated aqueous citric acid solution (20 mL) and extracted with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of pentane and dichloromethane (2:1 to 0:1 by volume) to afford title compound as a gum, 3.5 g.

reactant | potassium tert-butoxide | 4.5 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 0.2 mL | C(C)(C)(C)O | C4H10O
reactant | 3-oxobutyric acid ethyl ester | 5.2 g | C(C)OC(CC(C)=O)=O | C6H10O3
reactant | 1-bromomethyl-4-methanesulfonylbenzene | 10 g | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2-(4-methanesulfonylbenzyl)-3-oxobutyric Acid Ethyl Ester | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C14H18O5S
